US08044213B2
A mixture of 0.037 g (0.1 mmole) of 4-(3-chloro-phenyl)-2-(6-hydroxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid amide (I.25d), 0.051 g (0.2 mmole) of toluene-4-sulfonic acid 3-dimethylamino-propyl ester, 1 mL of dimethylformamide and 0.160 g (0.5 mmole) of cesium carbonate was heated at 100 degrees for 30 minutes. The mixture was cooled, the solid was removed by filtration and the filtrate purified by reverse phase silica gel chromatography, eluting with acetonitrile-water (gradient 30:70-100:0) to give 0.018 g of 4-(3-chloro-phenyl)-2-[6-(3-dimethylamino-propoxy)-benzoimidazol-1-yl]-thiazole-5-carboxylic acid amide (I.31) as a white powder. MH+/Z=456

reactant | 4-(3-chloro-phenyl)-2-(6-hydroxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid amide | 0.1 mmole, 0.037 g | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)N)N1C=NC2=C1C=C(C=C2)O | C17H11ClN4O2S
reactant | toluene-4-sulfonic acid 3-dimethylamino-propyl ester | 0.2 mmole, 0.051 g | CN(CCCOS(=O)(=O)C1=CC=C(C=C1)C)C | C12H19NO3S
reactant | cesium carbonate | 0.5 mmole, 0.160 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 4-(3-chloro-phenyl)-2-[6-(3-dimethylamino-propoxy)-benzoimidazol-1-yl]-thiazole-5-carboxylic acid amide | 0.018 g | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)N)N1C=NC2=C1C=C(C=C2)OCCCN(C)C | C22H22ClN5O2S
